US08283378B2
Similarly to Example 1(c), by reaction of 120 mg (0.51 mmol) of C-(1-benzylsulfanyl-cyclohexyl)-methylamine with 125 μl (0.61 mmol) of 2,6-diisopropylphenylisocyanate. 101 mg of 1-(1-benzylsulfanyl-cyclohexylmethyl)-3-(2,6-diisopropyl-phenyl)-urea is obtained in the form of a white solid. (m.p.=156° C., Yields 45%).

reactant | C-(1-benzylsulfanyl-cyclohexyl)-methylamine | 0.51 mmol, 120 mg | C(C1=CC=CC=C1)SC1(CCCCC1)CN | C14H21NS
reactant | 2,6-diisopropylphenylisocyanate | 0.61 mmol, 125 μl | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | 1-(1-benzylsulfanyl-cyclohexylmethyl)-3-(2,6-diisopropyl-phenyl)-urea | 101 mg | C(C1=CC=CC=C1)SC1(CCCCC1)CNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C27H38N2OS
